US08877780B2
To a stirred mixture of 3-(5-aminomethyl-1-oxo-1,3-dihydro-isoindol-2-yl)-piperidine-2,6-dione methane sulfonate (0.43 g, 1.16 mmol) and cyclohexylisocyanate (0.148 mL, 1.16 mmol) in acetonitrile (8 mL), was added triethylamine (0.32 mL, 2.33 mmol) at room temperature under nitrogen. After 2 h, dil. aq. HCl (10 mL) was added. The solids were collected by filtration and washed with dil. aq. HCl (20 mL) and acetonitrile (10 mL). The product was dried in vacuo to give 1-cyclohexyl-3-[2-(2,6-dioxo-piperidin-3-yl)-1-oxo-2,3-dihydro-1H-isoindol-5-ylmethyl]-urea as a white solid (0.24 g, 52% yield): HPLC: Waters Nova-Pak C18 column, 3.9×150 mm, 4 μm; 25/75 CH3CN/0.1% aq H3PO4, 10 min, 1.0 mL/min, 5.94 min (99.50%); mp: 265-267° C.; 1H NMR (DMSO-d6) δ 0.99-1.36 (m, 5H, CH2, CH2, CH), 1.44-1.84 (m, 5H, CH2, CH2, CH), 1.92-2.06 (m, 1H, CH), 2.25-2.47 (m, 1H, CH), 2.59 (d, J=17.4 Hz, 1H, CH), 2.82-3.02 (m, 1H, CH), 3.33-3.47 (m, 1H, CH), 4.22-4.50 (m, 4H, CH2 and CH2), 5.10 (dd, J=5.0, 13.3 Hz, 1H, NCH), 5.88 (d, J=7.9 Hz, 1H, NH), 6.29 (t, J=5.9 Hz, 1H, NH), 7.38 (d, J=7.7 Hz, 1H, Ar), 7.44 (s, 1H, Ar), 7.67 (d, J=7.7 Hz, 1H, Ar), 10.98 (s, 1H, NH); 13C NMR (DMSO-d6) δ 22.49, 24.49, 25.28, 31.20, 33.28, 42.86, 47.09, 47.89, 51.55, 121.76, 122.84, 126.81, 130.13, 142.30, 145.51, 157.26, 167.98, 170.99, 172.85; LCMS: MH=399; Anal Calcd for C21H26N4O4: C, 63.30; H, 6.58; N, 14.06. Found: C, 63.30; H, 6.51; N, 13.76.

reactant | 3-(5-aminomethyl-1-oxo-1,3-dihydro-isoindol-2-yl)-piperidine-2,6-dione methane sulfonate | 1.16 mmol, 0.43 g | CS(=O)(=O)O.NCC=1C=C2CN(C(C2=CC1)=O)C1C(NC(CC1)=O)=O
reactant | cyclohexylisocyanate | 1.16 mmol, 0.148 mL | C1(CCCCC1)N=C=O | C7H11NO
reactant | triethylamine | 2.33 mmol, 0.32 mL | C(C)N(CC)CC | C6H15N
reactant | HCl | 10 mL | Cl | ClH
solvent | acetonitrile | 8 mL | C(C)#N | C2H3N
product | 1-cyclohexyl-3-[2-(2,6-dioxo-piperidin-3-yl)-1-oxo-2,3-dihydro-1H-isoindol-5-ylmethyl]-urea | 0.24 g, 52% yield | C1(CCCCC1)NC(=O)NCC=1C=C2CN(C(C2=CC1)=O)C1C(NC(CC1)=O)=O | C21H26N4O4
